US04565817
9.0 g. of 7-[(5-chloromethyl-1,2,4-oxadiazol-3-yl)-methyl]-theophylline, 6 cm3 diethylamine and 50 cm3 toluene are heated on water bath for 8 hours under stirring. The mixture is evaporated at reduced pressure and the residue is washed with water, dissolved in 50 cm3 hot ethanol, treated with activated charcoal and treated with ethanol in hydrochloric acid. 8.3 g of 7-[(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-methyl]-theophylline-hydrochloride salt are obtained. M.p.: 207°-210° C.

reactant | 7-[(5-chloromethyl-1,2,4-oxadiazol-3-yl)-methyl]-theophylline | ClCC1=NC(=NO1)CN1C=NC=2N(C(N(C)C(C12)=O)=O)C | C11H11ClN6O3
reactant | diethylamine | 6 cm3 | C(C)NCC | C4H11N
solvent | toluene | 50 cm3 | C1(=CC=CC=C1)C | C7H8
product | 7-[(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-methyl]-theophylline-hydrochloride salt | 8.3 g | Cl.C(C)N(CC)CC1=NC(=NO1)CN1C=NC=2N(C(N(C)C(C12)=O)=O)C | InChI=1S/C15H21N7O3.ClH/c1-5-21(6-2)8-11-17-10(18-25-11)7-22-9-16-13-12(22)14(23)20(4)15(24)19(13)3;/h9H,5-8H2,1-4H3;1H
